US07943652B2
With vigorous stirring, POCl3 (1.4 mL, 15 mmol) was added slowly to dimethylformamide (2 mL) at 0° C. 2-(5-Methyl-isoxazol-3-yl)-1H-indole (1.0 g, 5.04 mmol) dissolved in N,N-dimethylformamide (8 mL) was added. The reaction mixture was allowed to come to room temperature, stirred for 4 h, and quenched with ice cold water followed by a 10% sodium hydroxide solution. The resulting precipitate was washed with water, dried in vacuo, and purified via silica gel column chromatography (30% ethyl acetate in petroleum ether) to obtain 2-(5-methyl-isoxazol-3-yl)-1H-indole-3-carbaldehyde (0.6 g, 2.65 mmol) as a white solid.

reactant | POCl3 | 15 mmol, 1.4 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-(5-Methyl-isoxazol-3-yl)-1H-indole | 5.04 mmol, 1.0 g | CC1=CC(=NO1)C=1NC2=CC=CC=C2C1 | C12H10N2O
reactant | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-(5-methyl-isoxazol-3-yl)-1H-indole-3-carbaldehyde | 2.65 mmol, 0.6 g | CC1=CC(=NO1)C=1NC2=CC=CC=C2C1C=O | C13H10N2O2
